US09193689B2
To NaH (78 mg, 1.94 mmol) in anhydrous DMF (4 mL) under N2, at 0° C. was added indole (227 mg, 1.94 mmol) in anhydrous DMF (5 mL). The reaxtion mixture was maintained at this temperature for 10 min. 4-bromomethylphenylboronic acid pinacol ester (523 mg, 1.76 mmol) in anhydrous DMF (8 mL) was added and the reaction stirred at RT for 18 h. The reaction mixture was diluted with H2O and extracted with CH2Cl2 (×2). The organic phases were combined, washed with brine, dried (phase separation cartridge) and the solvent removed in vacuo. The crude material was purified by silica gel column chromatography eluting with isohexane and increasing the polarity to 5% EtOAc/isohexane. The compound was further purified by reverse phase preparative HPLC-MS to afford 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-1H-indole as an off-white solid (120 mg, 10%).

reactant | NaH | 1.94 mmol, 78 mg | [H-].[Na+]
reactant | indole | 1.94 mmol, 227 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-bromomethylphenylboronic acid pinacol ester | 1.76 mmol, 523 mg | BrCC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C13H18BBrO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-1H-indole | 120 mg, 10% | CC1(OB(OC1(C)C)C1=CC=C(CN2C=CC3=CC=CC=C23)C=C1)C | C21H24BNO2
